US09447106B2
To a solution of 7-amino-2-(4-phenoxyphenyl)-4H-benzo[4,5]imidazo[1,2-b]pyrazole-3-carboxamide (45 mg, 0.11 mmol) in 10 mL of DCM at 0° C. was added TEA (36 mg, 0.35 mmol). Acryloyl chloride (11 mg, 0.12 mmol) in 2 mL of DCM was added dropwise over a period of 20 min. The mixture was stirred until TLC and LCMS analysis showed that most of starting material was consumed. The mixture was then partitioned between water (50 mL) and DCM (20 mL), extracted with additional 20 mL of DCM. The combined organic layer was washed with brine, dried over Na2SO4, concentrated and purified by Pre-TLC (DCM/MeOH=20/1) to get 4 mg (7.8%) of 7-acrylamido-2-(4-phenoxyphenyl)-4H-benzo[4,5]imidazo[1,2-b]pyrazole-3-carboxamide as a grey solid. 1H NMR (400 MHz, CD3OD-d4) δ 8.25 (s, 1H), 7.61 (d, J=8.4 Hz, 2H), 7.44 (d, J=8.8 Hz, 1H), 7.39 (d, J=8.8 Hz, 1H), 7.32 (d, J=7.6 Hz, 1H), 7.30 (d, J=7.6 Hz, 1H), 7.08 (t, J=7.6 Hz, 1H), 7.05-6.90 (m, 4H), 6.42-6.25 (m, 2H), 5.69 (dd, J=9.6, 1.9 Hz, 1H). MS (ESI) m/e [M+1]+ 438.

reactant | 7-amino-2-(4-phenoxyphenyl)-4H-benzo[4,5]imidazo[1,2-b]pyrazole-3-carboxamide | 0.11 mmol, 45 mg | NC1=CC2=C(NC=3N2N=C(C3C(=O)N)C3=CC=C(C=C3)OC3=CC=CC=C3)C=C1 | C22H17N5O2
reactant | Acryloyl chloride | 0.12 mmol, 11 mg | C(C=C)(=O)Cl | C3H3ClO
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 7-acrylamido-2-(4-phenoxyphenyl)-4H-benzo[4,5]imidazo[1,2-b]pyrazole-3-carboxamide | 4 mg, 7.8% | C(C=C)(=O)NC1=CC2=C(NC=3N2N=C(C3C(=O)N)C3=CC=C(C=C3)OC3=CC=CC=C3)C=C1 | C25H19N5O3
